US07612237B2
38.7 g of (2S,3S)—N-cyclopropyl-3-amino-2-hydroxyhexanamide (S)-mandelic acid salt are suspended in 500 ml of isopropyl acetate and admixed with 11.8 g of 37% hydrochloric acid. After stirring at room temperature for 1 h, half of the solvent is distilled off in vacuo and replaced by fresh isopropyl acetate. After this has been repeated once more, the mixture is heated to 60° C., and the solid is filtered off and washed with warm isopropyl acetate. 25.0 g of (2S,3S)—N-cyclopropyl-3-amino-2-hydroxyhexanamide hydrochloride are obtained.

reactant | (2S,3S)—N-cyclopropyl-3-amino-2-hydroxyhexanamide (S)-mandelic acid salt | 38.7 g | C([C@@H](O)C1=CC=CC=C1)(=O)O.C1(CC1)NC([C@H]([C@H](CCC)N)O)=O
reactant | hydrochloric acid | 11.8 g | Cl | ClH
solvent | isopropyl acetate | 500 ml | C(C)(=O)OC(C)C | C5H10O2
product | (2S,3S)—N-cyclopropyl-3-amino-2-hydroxyhexanamide hydrochloride | 25.0 g | Cl.C1(CC1)NC([C@H]([C@H](CCC)N)O)=O | InChI=1S/C9H18N2O2.ClH/c1-2-3-7(10)8(12)9(13)11-6-4-5-6;/h6-8,12H,2-5,10H2,1H3,(H,11,13);1H/t7-,8-;/m0./s1
